data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_129067_1,[C:1](\[N:2]([H:7])[H:8])(=[C:4](/[N:3]([H:9])[H:10])[H:11])[O:5][H:6]>>[C:1](\[N:2]([H:7])[H:8])(=[C:4](/[N:3]([H:9])[H:10])[O:5][H:6])[H:11],2.131617500004239
MR_102813_2,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([C:4]([O:6][H:9])=[O:7])[O:5][H:8])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([N:3]=[O:5])([O:6][H:9])[O:7][H:8])([H:10])[H:11],66.98311499999178
MR_171819_0,[C:1](/[C:3](=[C:2](/[N:4]=[N:5]\[H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([H:8])[C:2]([H:7])=[N:4][N:5]1[H:6])([H:9])([H:10])[H:11],46.02461500000942
MR_549356_0,[C:1]([C:4]([C:2]([H:11])([H:15])[H:16])=[N:7][O:6][C:3]([N:5]([H:9])[H:10])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:2]([H:11])([H:15])[H:16])([N:5]([H:9])[H:10])[N:7]1[C:3](=[O:8])[O:6]1)([H:12])([H:13])[H:14],67.65265750001348
MR_130062_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[C:5]([H:15])[H:16])[O:7][H:10])=[O:8])([O:6][H:9])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([H:11])[C:3]([C:4](=[C:5]([H:15])[H:16])[O:7][H:10])([O:6][H:9])[O:8]1,69.08837749999122
MR_80797_1,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:4]([N:5]([H:7])[H:8])=[N:6]\[C:2]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([H:14])([H:15])[C:4]1([N:5]([H:7])[H:8])[N:6]([C:2]([H:11])([H:12])[H:13])[H:16],67.47507499999813
MR_499599_0,[C:1](/[C:4]([C:2](=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:5]([H:9])[H:10])=[N:8]\[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:4]([C:3](=[C:2]([N:5]([H:9])[H:10])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])=[N:8]\[H:15])([H:16])([H:17])[H:18],64.47562500000913
MR_163340_0,[C:1]([C:2](=[O:5])[H:9])([O:3][H:6])([O:4][H:7])[H:8]>>[C:1]([C:2](=[O:5])[H:8])([O:3][H:6])([O:4][H:7])[H:9],53.48559000000563
MR_410411_0,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])([C:5]([O:8][H:12])=[O:9])([O:6][H:10])[O:7][H:11]>>[C:1]([C:5]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])([O:8][H:12])[O:9][H:10])(=[O:6])[O:7][H:11],53.70772499997983
MR_346588_1,[C:1]([C:2]([C:5](=[O:8])[H:13])([H:11])[H:12])([C:3]([H:15])([H:16])[H:17])([N:4]([H:9])[H:10])[C:6](=[C:7]([H:18])[H:19])[H:14]>>[C:1](\[C:2]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:14])([O:8][H:10])[H:13])([H:11])[H:12])([C:3]([H:15])([H:16])[H:17])=[N:4]/[H:9],55.552574999994704
MR_399642_2,[C:1](/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:4](\[C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])([O:8][N:6]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[C:5]([C:3]([H:18])([H:19])[H:20])[C:4]([C:2]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])[O:8][N:6]([H:9])[H:10])([H:13])[H:14],38.92821750002014
MR_360885_1,[C:1]([C:2]([O:7][H:10])=[O:9])(/[C:4](=[C:3](/[N:5]([H:12])[H:13])[O:8][H:11])[N:6]([H:14])[H:15])([H:16])[H:17]>>[C:1](=[C:4]([C:3]([C:2]([O:7][H:10])=[O:9])([N:5]([H:12])[H:13])[O:8][H:11])[N:6]([H:14])[H:15])([H:16])[H:17],53.746629999952944
MR_492011_1,[C:1]([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:8]/[C:3]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[H:10]>>[C:1](\[C:6]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])[N:8]([C:3]([H:16])([H:17])[H:18])[H:11])(=[N:7]/[H:12])[H:10],45.624269999985785
MR_333366_0,[C:1](/[C:6](=[C:3]([C:2](=[C:5](\[O:8][H:10])[H:13])\[O:7][H:9])/[N:4]([H:11])[H:12])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:3]([N:4]([H:11])[H:12])=[C:2]([O:7][H:9])[C:5]1([O:8][H:10])[H:13])([H:15])([H:16])[H:17],32.09348749997659
MR_260830_1,[C:1]([C:3]([H:18])([H:19])[H:20])([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])(/[C:6](=[C:7](\[C:4]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])[O:9][H:10])[H:12]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:6](\[C:7]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])[N:8]([H:13])[H:14])[O:9][H:10])[H:12],68.52990250001014
MR_40726_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:4]([N:6]([H:11])[H:12])=[N:7]/[N:5]([H:9])[H:10])[H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:4]([N:6]([H:11])[H:12])[N:7]([N:5]([H:9])[H:10])[H:8],66.75344999996526
MR_613193_1,[C:1]([N:5]([C:2]1([H:14])[C:4]([H:19])([H:20])[C:3]([H:17])([H:18])[C:6]1([N:7]([H:15])[H:16])[O:10][H:11])[H:13])(=[O:8])[O:9][H:12]>>[C:1]1([O:8][H:11])([O:9][H:12])[C:3]([H:17])([H:18])[C:4]([H:19])([H:20])[C:2]([C:6]([N:7]([H:15])[H:16])=[O:10])([H:14])[N:5]1[H:13],60.29082750001663
MR_480518_0,[C:1]1([H:12])([H:13])[C:4](=[O:8])[N:3]([N:6]([H:9])[H:10])[C:7]([H:11])=[C:5]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:12])([H:13])[C:4](=[O:8])[C:5]1([C:2]([H:14])([H:15])[H:16])/[C:7](=[N:3]/[N:6]([H:9])[H:10])[H:11],69.55586499998802
MR_269667_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([N:5]([H:8])[H:9])/[C:6](=[N:7]\[C:2]([H:13])([H:14])[H:15])[H:10])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:7]([C:2]([H:13])([H:14])[H:15])[C:6]([N:4][N:5]([H:8])[H:9])[H:10])([H:11])[H:12],68.03104000002122
